US04153803
4-(4'-Chlorobenzyl)-phenoxy acetic acid-(pivaloyloxymethyl)ester
To a solution of 8.3 g (0.06 mol) of 4-(4'-chlorobenzyl)-phenoxy acetic acid in 50 ml of dimethylformamide are added 6.0 g (0.06 mol) of triethylamine, whereafter the mixture is stirred for 30 minutes at room temperature and, after adding 9.0 (0.06 mol) of chloromethyl pivalate, is heated for 6 hours in an oil bath at 85°-90° C. The residue which is obtained by concentration by evaporation at reduced pressure in a Buchi rotary evaporator is washed with water and extracted with ether. The ethereal solution is once again washed with water, dried over anhydrous magnesium sulphate and concentrated by evaporation in the Buchi rotary evaporator, an oil being obtained which quickly solidifies. By recrystallisation from ether/n-hexane, 9.5 g of product are obtained in the form of white crystals with the melting point 54°-55° C.

reactant | 4-(4'-chlorobenzyl)-phenoxy acetic acid | 0.06 mol, 8.3 g | ClC1=CC=C(CC2=CC=C(OCC(=O)O)C=C2)C=C1 | C15H13ClO3
reactant | triethylamine | 0.06 mol, 6.0 g | C(C)N(CC)CC | C6H15N
reactant | chloromethyl pivalate | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-(4'-Chlorobenzyl)-phenoxy acetic acid-(pivaloyloxymethyl)ester | C(C(C)(C)C)(=O)OCOC(COC1=CC=C(C=C1)CC1=CC=C(C=C1)Cl)=O | C21H23ClO5
